spice
* Differential Amplifier Circuit

VCC 2 0 DC 10V

I1 4 2 DC 1mA
I2 2 3 DC 1mA
IEE 3 0 DC 2mA

Q1 Vout Vin1 3 QMODEL
Q2 Vout Vin2 3 QMODEL

.model QMODEL NPN (Is=1e-14 Bf=100)

Vin1 Vin1 0 DC 0.7V
Vin2 Vin2 0 DC 0.6V

* Define nodes:
* 2: VCC
* 3: P (Common node for tail current source)
* 4: Connection to top current source I1

.end